US07297698B2
2-Methylpyrimidine-5-carboxylic acid
In 30 ml of ethanol and 20 ml of a 1M sodium hydroxide aqueous solution, 2.9 g of ethyl 2-methylpyrimidine-5-carboxylate was stirred for 2 hours. The solvent was removed by evaporation and an appropriate amount of water and diethyl ether were added thereto, followed by liquid-separating operation. The resulting aqueous layer was made weakly acidic with a 1M hydrochloric acid aqueous solution and then the resulting crystals were collected by filtration, washed with water, and then dried to obtain 1.9 g of the title compound.

reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | ethyl 2-methylpyrimidine-5-carboxylate | 2.9 g | CC1=NC=C(C=N1)C(=O)OCC | C8H10N2O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Methylpyrimidine-5-carboxylic acid | 1.9 g | CC1=NC=C(C=N1)C(=O)O | C6H6N2O2
